US04952587
(d) 3-[2-(1-Methylindol-3-yl)-1,3-thiazol-4-yl]-1-methyl-1,2,5,6-tetrahydropyridinium hydrochloride
3-[2-(1-Methylindol-3-yl)-1,3-thiazol-4-yl]-1-methylpyridinium iodide (0.8 g) was suspended in ethanol (20 ml) and water (1 ml). Sodium borohydride (0.1 g) was added in portions with much evolution of hydrogen. After 30 minutes the intense yellow coloration was replaced by a light brown hue. 5M Hydrochloric acid was added dropwise to quench excess sodium borohydride. The contents of the flask were poured onto a saturated solution of sodium bicarbonate which was extracted with dichloromethane (4×150 ml). This was washed with brine, dried (MgSO4) and evaporated under reduced pressure. The residue was purified by column chromatography on silica using 10% methanol in dichloromethane as eluant yielding 0.4 g. This was further purified by dissolving in methanol; addition of methanolic HCl (20 ml) precipitated the hydrochloride as a yellow powder. This was recrystallised from aqueous ethanol, m.p. 235° C. (dec). δH 2.6-2.8 (2H, m, β-pyr), 3.08 (3H, s, NMe pyr), 3.16-3.28 (1H, m, α-pyr), 3.65 (1H, mc, α-pyr), 3.74 (1H, d, J=15.6 Hz, H-1 α-pyr), 4.14 (1H, d, J=15.6 Hz, H-1 α-pyr), 6.53 (1H, mc, H-4 γ-pyr), 7.09 (1H, s, SCH), 7.23 and 7.30 (2H, 2×t, J=7.9 Hz, H-5 and H-6), 7.37 (1H, d, J=7.9 Hz), 7.53 (1H, d, J=7.8 Hz), 7.75 (1H, s, H-2); m/z 309 (M+ free base, 100%), 265 (40), 168 (40), 96 (35 ).

reactant | 3-[2-(1-Methylindol-3-yl)-1,3-thiazol-4-yl]-1-methylpyridinium iodide | 0.8 g | [I-].CN1C=C(C2=CC=CC=C12)C=1SC=C(N1)C=1C=[N+](C=CC1)C
reactant | Sodium borohydride | 0.1 g | [BH4-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | Hydrochloric acid | 5M | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 1 ml | O | H2O
product | 3-[2-(1-Methylindol-3-yl)-1,3-thiazol-4-yl]-1-methyl-1,2,5,6-tetrahydropyridinium hydrochloride | Cl.CN1C=C(C2=CC=CC=C12)C=1SC=C(N1)C=1C[NH+](CCC1)C | InChI=1S/C18H19N3S.ClH/c1-20-9-5-6-13(10-20)16-12-22-18(19-16)15-11-21(2)17-8-4-3-7-14(15)17;/h3-4,6-8,11-12H,5,9-10H2,1-2H3;1H/p+1
